US06172076B2
Preparation of 1-phenyl-8-tert-butoxycabonyl-1,3,8-triazaspiro[4.5]-decan-4-one
A solution of 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one (693 mg, 3 mmol) and di-tert-butyl dicarbonate (780 mg, 3.6 mmol) in anhydrous methylene chloride (10 mL) was stirred at room temp. for 24 hours. The resulting solution was concentrated under vacuum, and the residue was triturated with diethyl ether. The white solid which precipitated was collected by filtration to provide the title compound, mp: 214-216° C.

reactant | 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 3 mmol, 693 mg | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | di-tert-butyl dicarbonate | 3.6 mmol, 780 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-phenyl-8-tert-butoxycabonyl-1,3,8-triazaspiro[4.5]-decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)C(=O)OC(C)(C)C)=O | C18H25N3O3
